US06914074B2
3-Bromo-1,8-dichloro-6-(4-methoxyphenyl)-2-naphthol
The title compound was prepared by reacting 3-bromo-8-chloro-6-(4-methoxyphenyl)-2-naphthol (0.69 g, 1.90 mmol) and NCS (0.31 g, 2.3 mmol) in THF (25 mL) according to method C to yield 0.61 g (81%) of a yellow solid. An analytical sample was further prepared by reverse phase preparative HPLC to yield the title compound as a white solid: mp 176-178° C. (dec.); 1H NMR (DMSO-d6): δ 3.82 (3H, s), 7.08 (2H, d, J=8.77 Hz), 7.77 (2H, d, J=8.75 Hz), 8.00 (1H, d, J=1.84 Hz), 8.19 (1H, d, J=1.84 Hz), 8.39 (1H, s), 10.53 (1H, bs); MS (ESI) m/z39513971399 (M−H)−.

reactant | 3-bromo-8-chloro-6-(4-methoxyphenyl)-2-naphthol | 1.90 mmol, 0.69 g | BrC=1C(=CC2=C(C=C(C=C2C1)C1=CC=C(C=C1)OC)Cl)O | C17H12BrClO2
reactant | NCS | 2.3 mmol, 0.31 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 3-Bromo-1,8-dichloro-6-(4-methoxyphenyl)-2-naphthol | BrC=1C(=C(C2=C(C=C(C=C2C1)C1=CC=C(C=C1)OC)Cl)Cl)O | C17H11BrCl2O2
